US06037367
Preparation of (+/-)-N-[2-(3-Cyclopentyloxy-4-methoxyphenyl)-4-phenylbut-3-ynyl]acetamide
A solution of (+/-)-4-amino-3-(3 cyclopentyloxy-4-methoxyphenyl)-1-phenyl-1-butyne (50 mg, 0.15 mmol) and Et3N (0.2 ml) in EtOAc (30 ml) at 5° was treated with Ac2O (0.2 ml). After 5 minutes, the reaction was treated with MeOH, to decompose excess Ac2O. The reaction was washed with H2O and 0.05 N HCl, dried, and the solvent was evaporated. The residue was purified by flash chromatography (alumina, neutral, activity 1, 5% MeOH/CHCl3), and then by recrystallization from a mixture of cyclohexane and Et2O, and gave the titled compound, 37 mg (65%). mp 114-117°. 1H NMR (400 MHz, CDCl3) δ 7.42 (m, 2 H), 7.32 (m, 3 H), 6.92 (m, 2 H), 6.84 (d, 1 H), 5.78 (broad s, 1 H), 4.76 (m, lH), 4.02 (t, 1 H), 3.82 (s, 3 H), 3.64 (m, 1 H), 3.50 (m, 1 H), 2.06 (s, 3 H), 1.78-2.00 (m, 6 H), 1.62 (m, 2 H).

reactant | (+/-)-4-amino-3-(3 cyclopentyloxy-4-methoxyphenyl)-1-phenyl-1-butyne | 0.15 mmol, 50 mg | NCC(C#CC1=CC=CC=C1)C1=CC(=C(C=C1)OC)OC1CCCC1 | C22H25NO2
reactant | Et3N | 0.2 ml | CCN(CC)CC | C6H15N
reactant | Ac2O | 0.2 ml | CC(=O)OC(=O)C | C4H6O3
reactant | MeOH | CO | CH4O
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
product | (+/-)-N-[2-(3-Cyclopentyloxy-4-methoxyphenyl)-4-phenylbut-3-ynyl]acetamide | C1(CCCC1)OC=1C=C(C=CC1OC)C(CNC(C)=O)C#CC1=CC=CC=C1 | C24H27NO3
